US08008298B2
A solution of 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine (233 mg, 0.410 mmol) in anhydrous tetrahydrofuran (3 ml) was cooled to −78° C. and treated with nBuLi (2.29M in hexanes, 0.25 ml, 0.57 mmol) dropwise. The solution was stirred for 30 seconds and then 2,N-dimethoxy-2,N-dimethyl-propionamide (198 mg, 1.23 mmol), dissolved in THF (5 ml), was added dropwise. The reaction mixture was stirred at −78° C. for 30 minutes and then at room temperature 30 minutes. The reaction mixture was quenched with saturated aqueous NaHSO4 and then partitioned between EtOAc/water. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a brown oil. The oil was purified by silica gel chromatography using 10-100% EtOAc in hexanes as eluant providing 14 mg (9%) of 2-methoxy-2-methyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one as a yellow solid. MP 237.8-239.1° C., M+H=386.

reactant | 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.410 mmol, 233 mg | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | nBuLi | 0.57 mmol, 2.29M, 0.25 ml | [Li]CCCC
reactant | 2,N-dimethoxy-2,N-dimethyl-propionamide | 1.23 mmol, 198 mg | COC(C(=O)N(C)OC)(C)C | C7H15NO3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-methoxy-2-methyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 14 mg, 9% | COC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)(C)C | C20H23N3O5
